### PR TITLE
Add the intergal forms of the `fDiv` of `StatInfoFun`

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
- Add the integral form of the `fDiv` of `StatInfoFun`, the one with the max: `fDiv_statInfoFun_eq_integral_max_of_nonneg_of_le` and similar lemmas.
- Add the auxiliary lemmas `integral_max_eq_integral_abs` and `integral_max_eq_integral_abs'`.
- Add the integral form of the `fDiv` of `StatInfoFun`, the one with the absolute value:  `fDiv_statInfoFun_eq_integral_abs_of_nonneg_of_le` and similar lemmas.
- Refactor `measurable_statInfoFun3` to `stronglyMeasurable_statInfoFun3` and fix dependncies.
- Golf proof of `derivAtTop_statInfoFun_ne_top`.
- Cleanup.

-Depends on #98

### CODE REVIEW

File: TestingLowerBounds/StatInfoFun.lean [hunk 1]
```diff
@@ -340,12 +339,137 @@ end statInfoFun_γ
...
+    fDiv (statInfoFun β γ) μ ν = ∫ x, max 0 (β * ((∂μ/∂ν) x).toReal - γ) ∂ν := by
+  simp_rw [fDiv_of_integrable (integrable_statInfoFun_rnDeriv _ _ _ _),
+    derivAtTop_statInfoFun_of_nonpos_of_gt hβ hγ, statInfoFun_of_gt hγ, zero_mul, add_zero]
+
+/-- Auxiliary lemma for `fDiv_statInfoFun_eq_integral_abs_of_nonneg_of_le` and
+`fDiv_statInfoFun_eq_integral_abs_of_nonpos_of_le`. -/
+lemma integral_max_eq_integral_abs [IsFiniteMeasure μ] [IsFiniteMeasure ν] :
+    ∫ x, max 0 (γ - β * ((∂μ/∂ν) x).toReal) ∂ν = (2 : ℝ)⁻¹ * (∫ x, |β * ((∂μ/∂ν) x).toReal
+      - γ| ∂ν + γ * (ν univ).toReal - β * (μ univ).toReal
+      + β * ((μ.singularPart ν) univ).toReal) := by
```
Comment (RemyDegenne) [inline TestingLowerBounds/StatInfoFun.lean]: Please don't go to a new line in the middle of an integral. Try to find better positions for the line breaks.

File: TestingLowerBounds/StatInfoFun.lean [hunk 2]
```diff
@@ -340,12 +339,137 @@ end statInfoFun_γ
...
+      Measure.setLIntegral_rnDeriv_le univ).trans_lt IsFiniteMeasure.measure_univ_lt_top
+  ring_nf
+  rw [integral_toReal (Measure.measurable_rnDeriv μ ν).aemeasurable (Measure.rnDeriv_lt_top μ ν)]
+
+/-- Auxiliary lemma for `fDiv_statInfoFun_eq_integral_abs_of_nonneg_of_gt` and
+`fDiv_statInfoFun_eq_integral_abs_of_nonpos_of_gt`. -/
+lemma integral_max_eq_integral_abs' [IsFiniteMeasure μ] [IsFiniteMeasure ν] :
+    ∫ x, max 0 (β * ((∂μ/∂ν) x).toReal - γ) ∂ν = (2 : ℝ)⁻¹ * (∫ x, |β * ((∂μ/∂ν) x).toReal
+      - γ| ∂ν - γ * (ν univ).toReal + β * (μ univ).toReal
+      - β * ((μ.singularPart ν) univ).toReal) := by
```
Comment (RemyDegenne) [inline TestingLowerBounds/StatInfoFun.lean]: same as above.

**Review by RemyDegenne — APPROVED** [review]
